US05272252
Dissolve 2-propyl-3-t-butyl-4-hydroxy-5-isopropylphenol (2.0mol) and trimethyl orthoformate (0.3L) in methanol (1.2L) and degas. Place under a nitrogen atmosphere and cool to 3° C. and add concentrated sulfuric acid (5mL). Add, by dropwise addition, methyl vinyl ketone (340mL, 4.0mol) and stir without cooling for 44 hours. Pour into aqueous sodium hydrogen caronate and extract into ethyl ether. Dry (MgSO4) and evaporate the solvent in vacuo to give 2-methoxy-2-methyl-7-t-butyl-5-isopropyl-8-propyl-chroman-6-ol.

reactant | 2-propyl-3-t-butyl-4-hydroxy-5-isopropylphenol | 2.0mol | C(CC)C1=C(C=C(C(=C1C(C)(C)C)O)C(C)C)O | C16H26O2
reactant | trimethyl orthoformate | 0.3L | C(OC)(OC)OC | C4H10O3
reactant | methyl vinyl ketone | 4.0mol, 340mL | C(=C)C(=O)C | C4H6O
solvent | methanol | 1.2L | CO | CH4O
product | 2-methoxy-2-methyl-7-t-butyl-5-isopropyl-8-propyl-chroman-6-ol | COC1(OC2=C(C(=C(C(=C2CC1)C(C)C)O)C(C)(C)C)CCC)C | C21H34O3
